US06645957B2
Preparation of N,N-bis[[(1-[4-(3,4,5-Trimethoxyphenyl)benzoyl]-4-piperidinyl]methyl]methylamine Hydrochloride
Concentrated hydrochloric acid (0.045 ml; 0.54 mmol) was added to a solution of N,N-bis[[1-[4-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]methyl]methylamine (142 mg; 0.18 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. A process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice to obtain the title compound as a colorless amorphous powder.

reactant | hydrochloric acid | 0.54 mmol, 0.045 ml | Cl | ClH
reactant | N,N-bis[[1-[4-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]methyl]methylamine | 0.18 mmol, 142 mg | COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCC(CC2)CN(CC2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)C)C=C1 | C45H55N3O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | [(1-[4-(3,4,5-Trimethoxyphenyl)benzoyl]-4-piperidinyl]methyl]methylamine Hydrochloride | Cl.COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCC(CC2)CNC)C=C1 | InChI=1S/C23H30N2O4.ClH/c1-24-15-16-9-11-25(12-10-16)23(26)18-7-5-17(6-8-18)19-13-20(27-2)22(29-4)21(14-19)28-3;/h5-8,13-14,16,24H,9-12,15H2,1-4H3;1H
